//techsweep.scs 
include  "/home/techlib/tsmc180/PDK/PDK_Install/tsmc18/../models/spectre/ce018g_3d3_v1d0_usage.scs" section=tt_lib
include "techsweep_params.scs" 
save mn 
save mp 
parameters gs=0 ds=0 
vnoi     (vx  0)         vsource dc=0  
vdsn     (vdn vx)        vsource dc=ds  
vgsn     (vgn 0)         vsource dc=gs  
vbsn     (vbn 0)         vsource dc=-sb 
vdsp     (vdp vx)        vsource dc=-ds 
vgsp     (vgp 0)         vsource dc=-gs 
vbsp     (vbp 0)         vsource dc=sb  

//NOTE: YOUR MODELS SHOULD BE SET UP SUCH THAT THE STRESS PARAMS (SA, SB, etc.) ARE AUTOMATICALLY COMPUTED
mn       (vdn vgn 0 vbn) nch_mac  l=length*1e-6 w=4e-6 nf=4 
mp       (vdp vgp 0 vbp) pch_mac  l=length*1e-6 w=4e-6 nf=4 

simOptions options gmin=1e-13 reltol=1e-4 vabstol=1e-6 iabstol=1e-10 temp=27 tnom=27 rawfmt=psfbin rawfile="./techsweep.raw" 
sweepvds sweep param=ds start=0 stop=9.000000e-01 step=2.500000e-02 { 
   sweepvgs dc param=gs start=0 stop=9.000000e-01 step=2.500000e-02 
}
sweepvds_noise sweep param=ds start=0 stop=9.000000e-01 step=2.500000e-02 { 
   sweepvgs_noise noise freq=1 oprobe=vnoi param=gs start=0 stop=9.000000e-01 step=2.500000e-02 
}
